US07629466B2
treating the ethyl 4-(diphenylamino)-3-methoxypiperidine-1-carboxylate with an alkali metal hydroxide or hydride to yield 3-methoxy-N,N-diphenylpiperidin-4-amine

reactant | ethyl 4-(diphenylamino)-3-methoxypiperidine-1-carboxylate | C1(=CC=CC=C1)N(C1C(CN(CC1)C(=O)OCC)OC)C1=CC=CC=C1 | C21H26N2O3
reactant | hydride | [H-]
product | 3-methoxy-N,N-diphenylpiperidin-4-amine | COC1CNCCC1N(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22N2O
